US08912186B2
Ethyl N-[(5-chloro-2-benzimidazolyl)methyl]-N-(4-chlorophenyl)glycinate (0.15 g) was dissolved in methanol (3 ml). A solution of LiOH monohydrate (92 mg) in water (0.5 ml) was added and the cloudy mixture was stirred at rt for 2 h. Water (25 ml) was added and the aqueous layer was washed with EtOAc (20 ml) and diethyl ether (20 ml). By addition of 1M HCl a pH of 5 was adjusted. The white precipitate was extracted with EtOAc (4×50 ml). The combined organic layers were dried (sodium sulfate) and concentrated to give a yellowish solid which was further purified by trituration with acetone to provide N-[(5-chloro-2-benzimidazolyl)methyl]-N-(4-chlorophenyl)glycine (43 mg) as colourless crystals.

reactant | Ethyl N-[(5-chloro-2-benzimidazolyl)methyl]-N-(4-chlorophenyl)glycinate | 0.15 g | ClC1=CC2=C(N=C(N2)CN(CC(=O)OCC)C2=CC=C(C=C2)Cl)C=C1 | C18H17Cl2N3O2
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
solvent | Water | 25 ml | O | H2O
product | N-[(5-chloro-2-benzimidazolyl)methyl]-N-(4-chlorophenyl)glycine | 43 mg | ClC1=CC2=C(N=C(N2)CN(CC(=O)O)C2=CC=C(C=C2)Cl)C=C1 | C16H13Cl2N3O2
